US08202868B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-trifluoromethyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclobutyl-pyrimidine
0.4 g of 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine (1.14 mmol), 0.22 g of 4-methyl-5-trifluoromethyl-4H-[1,2,4]triazole-3-thiol (1.2 mmol), 0.07 g of lithium-hydroxide (2.92 mmol) and a spatula tip of potassium iodide were stirred in 10 ml of dimethylformamide for 14 h at room temperature and for an additional 2 h at 80° C. After addition of water and ethyl acetate, the organic layer was separated, dried over magnesium sulfate, filtered and the solvent was evaporated. The residue was purified twice by column chromatography on silica gel using dichloromethane-methanol (1-5%). Fractions containing the product were combined, the solvents evaporated, the residue stirred with acetonitrile yielding 0.03 g (5.3%) of the product as a solid.

reactant | 2-tert-Butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclobutyl-pyrimidine | 1.14 mmol, 0.4 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CCC1 | C19H31ClN4
reactant | 4-methyl-5-trifluoromethyl-4H-[1,2,4]triazole-3-thiol | 1.2 mmol, 0.22 g | CN1C(=NN=C1C(F)(F)F)S | C4H4F3N3S
reactant | potassium iodide | [I-].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-trifluoromethyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclobutyl-pyrimidine | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C(F)(F)F)C1CCC1 | C23H34F3N7S
